US03932465
0.04 g of 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid and 0.027 g of furane are simultaneously dissolved in 2 ml of trifluoroacetic acid; the solution is left to stand for 15 minutes at room temperature and is then diluted with an equal volume of toluene. The mixture is evaporated to dryness under reduced pressure and the residue is worked up in accordance with the process described in example 6. 3-Furfuryl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid is thus obtained, showing the following Rf values in a thin layer chromatogram (silica gel): 0.75 (system n-butanol/acetic acid/water, 67:10:23) and 0.52 (system n-butanol/ethanol/water, 40:10:50).

reactant | 3-acetoxymethyl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | 0.04 g | C(C)(=O)OCC1=CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O | C18H18N2O6S
reactant | furane | 0.027 g | O1C=CC=C1 | C4H4O
solvent | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Furfuryl-7-(N-phenylacetyl-amino)-ceph-2-em-4ξ-carboxylic acid | C(C1=CC=CO1)C1=CS[C@H]2N(C1C(=O)O)C(C2NC(CC2=CC=CC=C2)=O)=O | C20H18N2O5S
